US04818755
Step 1. 6-(Bromoacetyl)-N-methyl-3,4-dihydrocarbostyril
Bromoacetyl chloride (28.3 g) is added dropwise to a suspension of N-methyl-tetrahydroquinolin-2-one (14.7 g) and AlCl3 (26.7 g) in methylene chloride (400 ml), and the reaction mixture is refluxed for 5 hours. The reaction mixture is cooled to RT, stirred with an ice/water mixture for 30 minutes, diluted with methylene chloride (200 ml) and separated. The aqueous layer is extracted with methylene chloride, and the combined organic extracts are washed with H2O, dried, filtered and concentrated in vacuo, yielding a crude solid which is recrystallized from isopropanol affording the desired product as a solid.

reactant | Bromoacetyl chloride | 28.3 g | BrCC(=O)Cl | C2H2BrClO
reactant | N-methyl-tetrahydroquinolin-2-one | 14.7 g | CN1C(CCC2CC=CC=C12)=O | C10H13NO
reactant | AlCl3 | 26.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-(Bromoacetyl)-N-methyl-3,4-dihydrocarbostyril | BrCC(=O)C=1C=C2CCC(N(C2=CC1)C)=O | C12H12BrNO2
